US08455475B2
(R)-tert-Butyl 2-(3-(2-chlorobenzamido)-2,3-dihydro-1H-indene-5-carbonyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate
N-Ethyl-diisopropylamine (4 eq.) was added to a solution of (3R)-3-[(2-chloro-benzoyl)amino]-2,3-dihydro-1H-indene-5-carboxylic acid (E-03) (0.952 mmol, 1 eq.) in methylene chloride (18 ml). The reaction mixture was cooled to 0° C. and N-ethyl-N′-3-(dimethylamino)-propyl-carbodiimide hydrochloride (1.2 eq.) and 1-hydroxybenzotriazole hydrate (0.2 eq.) were then added. The mixture was stirred at this temperature for 15 min, before tert-butyl 2,9-diazaspiro[5.5]undecane-9-carboxylate (1.1 eq.) was added. The reaction mixture was stirred at room temperature for 2.5 d. Then, the reaction mixture was washed in each case 1× with 10% NH4Cl solution, sat. NaHCO3 solution and sat. NaCl solution. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica; ethyl acetate/hexane/ammonia (25 aq.) 70:10:0.8). Yield: 70%

reactant | N-Ethyl-diisopropylamine | 4 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (3R)-3-[(2-chloro-benzoyl)amino]-2,3-dihydro-1H-indene-5-carboxylic acid | 0.952 mmol, 1 eq. | ClC1=C(C(=O)N[C@@H]2CCC3=CC=C(C=C23)C(=O)O)C=CC=C1 | C17H14ClNO3
reactant | 1-hydroxybenzotriazole hydrate | 0.2 eq. | O.ON1N=NC2=C1C=CC=C2
reactant | tert-butyl 2,9-diazaspiro[5.5]undecane-9-carboxylate | 1.1 eq. | C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H26N2O2
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 2-(3-(2-chlorobenzamido)-2,3-dihydro-1H-indene-5-carbonyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate | Yield: 70% | ClC1=C(C(=O)N[C@@H]2CCC3=CC=C(C=C23)C(=O)N2CC3(CCC2)CCN(CC3)C(=O)OC(C)(C)C)C=CC=C1 | C31H38ClN3O4
